US04824959
Trans-6-[4,4-bis(4-fluorophenyl)-3-(1-methyl-1H-tetrazol-5-yl)-1,3-butadienyl]-tetrahydro-4-hydroxy-2H-pyran-2-one
A mixture of 4-[4,4-bis(4-fluorophenyl)-3-(1-methyl-1H-tetrazol-5-yl)-1,3-butadienyl]-1,5-dioxaspiro[5.5]undecane-2-acetic acid (280 mg, 0.52 mmol) in 20 mL of THF/0.5N HCl (1:1) was allowed to stand at ambient temperature for 26 hours. The solution was partitioned between brine and ethyl acetate. The organic layer was washed with brine (2x), dried (Na2SO4) and concentrated. The resultant foam (126 mg) was dissolved in dry methylene chloride (10 mL) and treated with 1-cyclohexyl-3-(2-morpholinomethyl) carbodiimide metho-p-toluenesulfonate (0.24 g). After 16 hours at ambient temperature, the solution was evaporated under reduced pressure and the residue was purified by silica gel chromatography using ethyl acetate as eluent. The appropriate fractions afforded 38 mg (16.6%) of the title compound as a colorless oil which is a racemic mixture of the compound of Example 7.

reactant | 4-[4,4-bis(4-fluorophenyl)-3-(1-methyl-1H-tetrazol-5-yl)-1,3-butadienyl]-1,5-dioxaspiro[5.5]undecane-2-acetic acid | 0.52 mmol, 280 mg | FC1=CC=C(C=C1)C(=C(C=CC1CC(OC2(O1)CCCCC2)CC(=O)O)C2=NN=NN2C)C2=CC=C(C=C2)F | C29H30F2N4O4
solvent | THF | 0.5N, 20 mL | C1CCOC1 | C4H8O
product | Trans-6-[4,4-bis(4-fluorophenyl)-3-(1-methyl-1H-tetrazol-5-yl)-1,3-butadienyl]-tetrahydro-4-hydroxy-2H-pyran-2-one | 38 mg, 16.6% | FC1=CC=C(C=C1)C(=C(C=C[C@H]1C[C@@H](CC(O1)=O)O)C1=NN=NN1C)C1=CC=C(C=C1)F | C23H20F2N4O3
